US05250735
The procedure was similar to that in Example 4 by reacting 2-methoxybenzaldehyde with the morpholine enamine of cyclopentanone to give 2-(E)-[(2-methoxy) benzylidene]cyclopentanone. The melting popint of this intermediate compound was determined to be 80°-82° C. A subsequent Mannich reaction yielded the 2-Dimethylaminomethyl-5-(E)-[(2-methoxy) benzylidene] cyclopentanone hydrochloride. The melting point of the product was determined to be 167°-169° C.

reactant | 2-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 2-(E)-[(2-methoxy) benzylidene]cyclopentanone | COC1=C(\C=C/2\C(CCC2)=O)C=CC=C1 | C13H14O2
